US07855215B2
5-(6-Hydroxymethyl-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To an ice-cooled solution of 400 mg (0.9 mMol) 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid (Expl. 73) in 12 ml THF are added 137 μl (0.99 mMol) Et3N and 130 μl (0.99 mMol) iso-butyl-chloroformate. After 1 h the resulting suspension is added dropwise to 75 mg (1.98 mMol) NaBH4 in 10 ml of water. After 30 min the mixture is diluted with EtOAc and 1 M HCl, the aqueous layer separeted off and extracted twice with EtOAc. The organic phases are washed with 1 M NaOH, water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; hexane/EtOAc 1:1→1:9) gives the title compound: MS: [M+1]+=431; HPLC: AtRet=13.6.

reactant | 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid | 0.9 mMol, 400 mg | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=CC(=NC=N1)C(=O)O)(F)F | C21H15F3N4O4
reactant | Et3N | 0.99 mMol, 137 μl | CCN(CC)CC | C6H15N
reactant | iso-butyl-chloroformate | 0.99 mMol, 130 μl | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NaBH4 | 1.98 mMol, 75 mg | [BH4-].[Na+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1 M | Cl | ClH
product | 5-(6-Hydroxymethyl-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)CO)(F)F | C21H17F3N4O3
